### PR TITLE
[Merged by Bors] - chore(CategoryTheory/Limits/HasLimits): golf proofs

### PR DESCRIPTION
**Pull request by eric-wieser**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/HasLimits.lean [hunk 1]
```diff
@@ -312,22 +312,24 @@ theorem limit.lift_extend {F : J ⥤ C} [HasLimit F] (c : Cone F) {X : C} (f : X
...
+  isLimit :=
+    { lift := fun s => c.isLimit.lift ((Cones.postcompose α.inv).obj s)
+      fac := fun s j => by
+        rw [Cones.postcompose_obj_π, NatTrans.comp_app, ← Category.assoc, c.isLimit.fac]
+        simp
+      uniq := fun s m w => by
+        apply c.isLimit.hom_ext; intro j
+        rw [c.isLimit.fac, Cones.postcompose_obj_π, NatTrans.comp_app, ← NatIso.app_inv,
+          Iso.eq_comp_inv]
+        simpa using w j }
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/HasLimits.lean:327]: Actually, we already have this definition:
```suggestion
  isLimit :=
    { lift := fun s => c.isLimit.lift ((Cones.postcompose α.inv).obj s)
      fac := fun s j => by
        rw [Cones.postcompose_obj_π, NatTrans.comp_app, ← Category.assoc, c.isLimit.fac]
        simp
      uniq := fun s m w => by
        apply c.isLimit.hom_ext; intro j
        rw [c.isLimit.fac, Cones.postcompose_obj_π, NatTrans.comp_app, ← NatIso.app_inv,
          Iso.eq_comp_inv]
        simpa using w j }
```
```suggestion
  isLimit := (IsLimit.postcomposeHomEquiv _ _).symm c.isLimit
```

Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/HasLimits.lean:327]: We already have this definition:
```suggestion
  isLimit := (IsLimit.postcomposeHomEquiv _ _).symm c.isLimit
```
So that it would be better to refactor the proof of `hasLimitOfIso` below using this.
(Also, I would think that most of us would agree we do not want to develop `LimitCone` API, but rather "stating" that certain cones are limit.)

Comment (eric-wieser) [reply Mathlib/CategoryTheory/Limits/HasLimits.lean]: Nice catch, done

**Comment by joelriou** [comment]
Thanks!

bors merge
